US05863947
2-Amino-2-(2-nitro-3,5-dihydroxyphenyl)-acetic acid
2-Amino-2-(3,5-dihydroxyphenyl)-acetic acid (183 mg, 1 mmol) was added portionwise to stirred 5.5M nitric acid (2.5 ml, 15 mmol), which has been cooled to -10° C. in an ice/salt bath. The resulting brown solution was diluted with water (2 ml), neutralised with 2M sodium hydroxide, and purified by cationic exchange chromatography (as in Example 14) to give the title compound as a fluffy yellow solid, m.p. >280° C.

reactant | 2-Amino-2-(3,5-dihydroxyphenyl)-acetic acid | 1 mmol, 183 mg | NC(C(=O)O)C1=CC(=CC(=C1)O)O | C8H9NO4
reactant | nitric acid | 15 mmol, 5.5M, 2.5 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | water | 2 ml | O | H2O
product | 2-Amino-2-(2-nitro-3,5-dihydroxyphenyl)-acetic acid | NC(C(=O)O)C1=C(C(=CC(=C1)O)O)[N+](=O)[O-] | C8H8N2O6
